US07700808B2
4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)benzoic acid (Compound No. 2-05 of the Present Invention)
To a solution of 1.95 g of 1-(4-bromophenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butene-1-one that was synthesized under Synthetic Example 3 and 0.56 g of triethylamine in 10 mL of tertiary-butyl alcohol, 10 mL of dioxane, and 5 mL of water in an autoclave, 51 mg of 1,1′-bis(diphenylphosphino) ferrocene and 10 mg of palladium(II) acetate were added, the mixture was stirred for 4 hours at 110° C. in an atmosphere of carbon monoxide at 0.5 MPa followed by cooling to room temperature, and then further 10 mg of palladium(II) acetate were added, the mixture was stirred for 4 hours at 110° C. in an atmosphere of carbon monoxide at 0.5 MPa. After that, the temperature was cooled to room temperature to isolate solid matter by filtration whereto diluted hydrochloric acid was added to extract with ethyl acetate, and then an organic layer was dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified using silica gel column chromatography that was eluted with ethyl acetate-hexane (1:8) to obtain 1.5 g of aimed product as resinous matter.

reactant | 1-(4-bromophenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butene-1-one | 1.95 g | BrC1=CC=C(C=C1)C(C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O | C16H8BrCl2F3O
reactant | triethylamine | 0.56 g | C(C)N(CC)CC | C6H15N
reactant | water | 5 mL | O | H2O
reactant | carbon monoxide | [C]=O | CO
reactant | tertiary-butyl alcohol | 10 mL | C(C)(C)(C)O | C4H10O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 51 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)benzoic acid | 1.5 g | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C17H9Cl2F3O3
